US08426442B2
iii) 1-Methyl-1H-pyrazole-3-sulfonic acid benzyl-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amide
Trifluoroacetic acid (5 ml) was added to a cooled stirred solution of 6-[Benzyl-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (391 mg, 0.80 mmol) in dichloromethane (20 ml). The mixture was allowed to warm to room temperature and stirred for 3 hrs then cooled and quenched with 2M NaOH until slightly basic. After diluting the reaction mixture with dichloromethane (100 ml) the organic phase was partitioned, dried over sodium sulfate and concentrated in vacuo to afford the title compound as a white solid (304 mg, 80% yield). HPLC retention time 2.97 min. Mass spectrum (ES+) m/z 383 (M+H).

reactant | Trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 6-[Benzyl-(1-methyl-1H-pyrazole-3-sulfonyl)-amino]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.80 mmol, 391 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)N(S(=O)(=O)C1=NN(C=C1)C)CC1=CC=CC=C1 | C25H30N4O4S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-Methyl-1H-pyrazole-3-sulfonic acid benzyl-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-amide | 304 mg, 80% yield | C(C1=CC=CC=C1)N(S(=O)(=O)C1=NN(C=C1)C)C=1C=C2CCNCC2=CC1 | C20H22N4O2S
